US04380466
2-(4-Bromo-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-thioxo-1H-isoindol-1-one
By the same procedure as described in Example 4, there was obtained the subject compound in red-purple crystals of 97° to 98° C. in melting point from 2-(4-bromo-2-fluorophenyl)-3a-hydroxy-1-thioxo-octahydroisoindol-3-one or 2-(4-bromo-2-fluorophenyl)-3-chloro-2,3,4,5,6,7-hexahydro-1H-isoindol-1-one.

reactant | 2-(4-bromo-2-fluorophenyl)-3a-hydroxy-1-thioxo-octahydroisoindol-3-one | BrC1=CC(=C(C=C1)N1C(C2CCCCC2(C1=O)O)=S)F | C14H13BrFNO2S
reactant | 2-(4-bromo-2-fluorophenyl)-3-chloro-2,3,4,5,6,7-hexahydro-1H-isoindol-1-one | BrC1=CC(=C(C=C1)N1C(C=2CCCCC2C1Cl)=O)F | C14H12BrClFNO
product | 2-(4-Bromo-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-3-thioxo-1H-isoindol-1-one | BrC1=CC(=C(C=C1)N1C(C=2CCCCC2C1=S)=O)F | C14H11BrFNOS
